US05336725
12.2 g of commercially available vinylbenzyl chloride (a mixture of 60% of a meta-isomer and 40% of a para-isomer) were reacted with 5 g of NaCN in a mixed solvent of methanol/water=12.2 g/5 g at 64° C. for 12 hours. A reaction product solution was filtered, and the solvent was then distilled off, followed by distillation under reduced pressure, thereby obtaining 8.1 g of vinylbenzyl cyanide (yield 71%).

reactant | vinylbenzyl chloride | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
reactant | NaCN | 5 g | [C-]#N.[Na+]
solvent | methanol water | CO.O
product | vinylbenzyl cyanide | 8.1 g, yield 71% | C(=C)C(C1=CC=CC=C1)C#N | C10H9N
